US07815803B2
Step 2: 2 ml of hexadecane.
10 ml of water and 30 mg of SDS were homogenized to an emulsion. To this emulsion, 125 ml of the ferrofluid from Example 7 (Preparation of water-based ferrofluid) was added and mixed with the dispersion from step 1 in a reactor.

reactant | SDS | 30 mg | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | hexadecane | CCCCCCCCCCCCCCCC | C16H34
